US06939887B2
Synthesis of ethyl 2,4-dichlorophenylcarbamate
2,4-Dichloroaniline (2.380 g) was dissolved in pyridine (20 ml), and to the solution was added dropwise ethyl chloroformate (1.685 ml) under ice-cooling. After the mixture was stirred for 2 hours, 1N hydrochloric acid was added. The precipitated crystals were filtered, washed with water and then dried to give the title compound (3.4055 g, 99%).

reactant | 2,4-Dichloroaniline | 2.380 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | ethyl chloroformate | 1.685 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2,4-dichlorophenylcarbamate | 3.4055 g, 99% | ClC1=C(C=CC(=C1)Cl)NC(OCC)=O | C9H9Cl2NO2
